US07626056B2
4-[(cyclopropylmethyl)thio]cyclohexanecarbonitrile (either isomer) (1.95 g; 10 mmol) was dissolved in THF (10 mL) and cyclopropyl methyl bromide (2.7 g; 20 mmol) was added followed by the dropwise addition of sodium hexamethyldisilazide (2M, 10 mL, 20 mmol). The reaction was stirred for half an hour and then was quenched with brine and extracted into ethyl acetate. The organic layer was dried and product was purified rigorously from its less polar isomer on silica using a Biotage 65i cartridge eluting with EtOAc/isohexane to yield 1-(cyclopropylmethyl)4-[(cyclopropylmethyl)thio]cyclohexanecarbonitrile as an oil. (2 g, 80%)

reactant | 4-[(cyclopropylmethyl)thio]cyclohexanecarbonitrile | C1(CC1)CSC1CCC(CC1)C#N | C11H17NS
reactant | cyclopropyl methyl bromide | 20 mmol, 2.7 g | C1(CC1)CBr | C4H7Br
reactant | sodium hexamethyldisilazide | 20 mmol, 2M, 10 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(cyclopropylmethyl)4-[(cyclopropylmethyl)thio]cyclohexanecarbonitrile | C1(CC1)CC1(CCC(CC1)SCC1CC1)C#N | C15H23NS
